### PR TITLE
basic lemmas about zip and uniq

### PR DESCRIPTION
**Pull request by thery**
##### Minimal TODO list

- [X] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers
- [ ] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [ ] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Compatibility with MathComp 1.X

- [x] I added the label `TODO: MC-1 port` to make sure someone ports this PR to
      the `mathcomp-1` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: mathcomp/ssreflect/seq.v [hunk 1]
```diff
@@ -3240,6 +3240,24 @@ Proof. by move=> st; elim: l => [//=|n l IH /=]; rewrite nth_zip ?IH ?st. Qed.
...
 End Zip.
 
+Lemma zip_uniql (S T : eqType) (s : seq S) (t : seq T) : 
+  uniq s -> uniq (zip s t).
+Proof.
+elim: s t => [[|]//|a s IH [|b t] //= /andP[aI sU]].
+rewrite IH // andbT.
+elim: s t {sU IH}aI => [[]//|a1 s IH [//|b1 t /=]].
+by rewrite !inE !negb_or /= xpair_eqE negb_and => /andP[->] /IH ->.
+Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/seq.v:3250]: It's a pity that we have to do two inductions here. I found a proof without induction but not clear it's much nicer:
```suggestion
case: s t => [|s0 s] [|t0 t] //; apply: contraTT => /(uniqPn (s0, t0)) [i [j]].
case=> o z; rewrite !nth_zip_cond !ifT ?js ?(ltn_trans o)// => -[n _].
by apply/(uniqPn s0); exists i, j; rewrite o n (leq_trans z) ?size_zip?geq_minl.
Qed.
```

Comment (proux01) [reply mathcomp/ssreflect/seq.v:3250]: Or (not much nicer)
```suggestion
case: s t => [|s0 s] [|t0 t] // /(uniqP s0) sin; apply/(uniqP (s0, t0)) => i j.
by move=> /[!inE] il jl; rewrite !nth_zip_cond il jl/= => -[+ _]; apply: sin;
   move: il jl; rewrite inE size_zip !ltn_min => /andP[+ +] /andP[].
Qed.
```

**Comment by proux01** [comment]
I personally wouldn't care any longer about MC1.
